US08211882B2
4-Chloro-2-(2-chloro-4-nitrophenylcarbamoyl)phenyl benzoate (Compound 22).
A suspension of 5-Chloro-N-(2-chloro-4-nitrophenyl)-2-hydroxybenzamide (1.27 g., 3.88 mmol) in pyridine (15 mL) was treated with 4-dimethylaminopyridine (30 mg) and benzoyl chloride (0.49 mL, 4.27 mmol) was introduced dropwise. The suspension was warmed to 50° C. for one hour then cooled to room temperature and stirred for 17 hours. The reaction mixture was partitioned between 1N aqueous HCl and ethyl acetate. The ethyl acetate phase was washed with water, then brine, dried over magnesium sulfate, and concentrated to an off-white solid. This was recrystallized from ethyl acetate/hexanes. 1HNMR (500 MHz, DMSO-d6): δ7.70 (M, 3H), 7.73 (m, 2H), 7.89 (m, 1H), 7.93 (M, 1H), 8.19 (m, 1H), 8.32 (m, 1H), 10.60 (s, 1H).

reactant | 5-Chloro-N-(2-chloro-4-nitrophenyl)-2-hydroxybenzamide | 3.88 mmol, 1.27 g | ClC=1C=CC(=C(C(=O)NC2=C(C=C(C=C2)[N+](=O)[O-])Cl)C1)O | C13H8Cl2N2O4
reactant | benzoyl chloride | 4.27 mmol, 0.49 mL | C(C1=CC=CC=C1)(=O)Cl | C7H5ClO
solvent | pyridine | 15 mL | N1=CC=CC=C1 | C5H5N
catalyst | 4-dimethylaminopyridine | 30 mg | CN(C1=CC=NC=C1)C | C7H10N2
product | 4-Chloro-2-(2-chloro-4-nitrophenylcarbamoyl)phenyl benzoate | C(C1=CC=CC=C1)(=O)OC1=C(C=C(C=C1)Cl)C(NC1=C(C=C(C=C1)[N+](=O)[O-])Cl)=O | C20H12Cl2N2O5
